US07420054B2
3.3 Preparation of 9-amino-6-carbethoxybenzo[a]phenoxazin-5-one
The 9-acetamido-6-carbethoxybenzo[a]phenoxazin-5-one obtained in point 3.2 was dissolved in a mixture of sulfuric acid (3 ml) and ethanol (3 ml). The mixture was heated to 80° C. while at the same time gradually adding water (1 ml). The purple color characteristic of the amine rapidly appeared. The hydrolysis was continued until the sample, diluted with water, and then extracted in ethyl acetate, no longer showed any 9-acetamido-6-carbethoxybenzo[a]phenoxazin-5-one by thin layer chromatography.

reactant | 9-acetamido-6-carbethoxybenzo[a]phenoxazin-5-one | C(C)(=O)NC=1C=C2OC3=C(C(C4=C(C3=NC2=CC1)C=CC=C4)=O)C(=O)OCC | C21H16N2O5
solvent | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 1 ml | O | H2O
product | 9-amino-6-carbethoxybenzo[a]phenoxazin-5-one | NC=1C=C2OC3=C(C(C4=C(C3=NC2=CC1)C=CC=C4)=O)C(=O)OCC | C19H14N2O4
